US09353075B2
Step 1. Preparation of 2-phenethyloxyacetic acid
To a stirred mixture of phenethyl alcohol (1.0 g, 8.18 mmol) in DMSO (16 mL) under nitrogen flow, NaH (0.39 g, 16.37 mmol) was added in one portion and the mixture was stirred at 60° C. for 10 min. Following the addition of chloroacetic acid (0.77 g, 8.18 mmol), the reaction mixture was heated at 80° C. for 3 h. The cooled mixture was then poured into H2O and the aqueous phase acidified to pH 1.0 with a 2.0 N HCl solution. The aqueous phase was then extracted with EtOAc (3×20 mL), and the combined organic phase washed with brine and dried over Na2SO4 to afford the title compound (1.11 g, 75%), which was used in the following step without further purification. 1H NMR (DMSO-d6): δ 2.83 (t, J=7.0 Hz, 2H), 3.67 (t, J=7.0 Hz, 2H), 4.00 (s, 2H), 7.15-7.32 (m, 5H), 12.64 (s, 1H).

reactant | phenethyl alcohol | 8.18 mmol, 1.0 g | C(CC1=CC=CC=C1)O | C8H10O
reactant | NaH | 16.37 mmol, 0.39 g | [H-].[Na+]
reactant | chloroacetic acid | 8.18 mmol, 0.77 g | ClCC(=O)O | C2H3ClO2
reactant | HCl | 2.0 N | Cl | ClH
solvent | DMSO | 16 mL | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | 2-phenethyloxyacetic acid | 1.11 g, 75% | C(CC1=CC=CC=C1)OCC(=O)O | C10H12O3
